US07176161B2
ia. Preparation of 2-(5-bromo-2,4-dihydroxybenzoyl)benzoic acid (starting material for Rh-1-Rh-6 and Rh-9).
Aluminum chloride (8.48 g, 64 mmol) was added to a stirring suspension of phthalic anhydride (2.36 g, 16 mmol) in tetrachloroethane (40 mL) under nitrogen. Nitromethane (6 mL) was added to dissolve the reactants. 4-Bromoresorcinol (3 g, 16 mmol) was added and the mixture continued to stir under nitrogen. The reaction was monitored by high performance liquid chromatography (HPLC) over a period of 2 hours. It was observed that the reaction had ceased within the first 30 minutes, with starting materials remaining. The solution was diluted with ethyl acetate (˜150 mL) and washed with 1M hydrochloric acid (2×100 mL). The product was extracted from the organic layer into a saturated solution of sodium bicarbonate in water (200 mL). The basic aqueous phase was acidified with 3M hydrochloric acid to a pH of 5. The product was extracted from the aqueous phase into ethyl acetate (150 mL), washed with brine (2×100 mL), dried over magnesium sulfate and concentrated to give an orange oil which solidified upon standing for about 10 minutes. The solid was slurried in dichloromethane (20 mL) and filtered to give a mixture of the desired product and phthalic acid. Slurrying in water (20 mL) followed by filtration gave the desired product as a beige powder (1.72 g, 5.1 mmol, 32% yield).

reactant | Aluminum chloride | 64 mmol, 8.48 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phthalic anhydride | 16 mmol, 2.36 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 4-Bromoresorcinol | 16 mmol, 3 g | BrC1=C(C=C(O)C=C1)O | C6H5BrO2
reactant | phthalic acid | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
solvent | tetrachloroethane | 40 mL | ClCC(Cl)(Cl)Cl | C2H2Cl4
solvent | ethyl acetate | ˜150 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | Nitromethane | 6 mL | [N+](=O)([O-])C | CH3NO2
product | 2-(5-bromo-2,4-dihydroxybenzoyl)benzoic acid | BrC=1C(=CC(=C(C(=O)C2=C(C(=O)O)C=CC=C2)C1)O)O | C14H9BrO5
